US03976633
A solution of 10.0 g. (0.026 mol.) of 1,3-bis(2-cyano-5-trifluoromethylphenyl)triazene, 6.0 g. (0.029 mol.) of N,N-dicyclohexylcarbodiimide and 5.1 g. (0.026 mol.) of 4-diethylaminobutyric acid hydrochloride in 800 ml. of methylene chloride is stirred at 25° for 12 hours. The reaction mixture is filtered and the filtrate is concentrated under reduced pressure to give a residue which is washed with ether and recrystallized from benzene to give 3-[4-(N,N-diethylamino)butyryl]-1,3-bis(2-cyano-5-trifluoromethylphenyl)-triazene hydrochloride.

reactant | 1,3-bis(2-cyano-5-trifluoromethylphenyl)triazene | 0.026 mol | C(#N)C1=C(C=C(C=C1)C(F)(F)F)N=NNC1=C(C=CC(=C1)C(F)(F)F)C#N | C16H7F6N5
reactant | 4-diethylaminobutyric acid hydrochloride | 0.026 mol | Cl.C(C)N(CCCC(=O)O)CC
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 3-[4-(N,N-diethylamino)butyryl]-1,3-bis(2-cyano-5-trifluoromethylphenyl)-triazene hydrochloride | Cl.C(C)N(CC)CCCC(=O)N(N=NC1=C(C=CC(=C1)C(F)(F)F)C#N)C1=C(C=CC(=C1)C(F)(F)F)C#N | InChI=1S/C24H22F6N6O.ClH/c1-3-35(4-2)11-5-6-22(37)36(21-13-19(24(28,29)30)10-8-17(21)15-32)34-33-20-12-18(23(25,26)27)9-7-16(20)14-31;/h7-10,12-13H,3-6,11H2,1-2H3;1H
